US04141995
2-Benzoyloxy-5-ethyl-4'-chlorobenzophenone
2-Hydroxy-5-ethyl-4'-chlorobenzophenone (5 g, 0.019 mole) was stirred vigorously in a solution of NaOH (7.5 g, 0.187 mole) in water (75 ml) and benzoyl chloride was added dropwise over 5 minutes. The temperature rose to around 50° C. The mixture was stirred for 1.5 hours at room temperature and was then extracted with ether, the ether washed with saturated NaCl solution, dried (Na2SO4), filtered and evaporated to leave the product, which was recrystallised from n-hexane to give white crystals of the desired product, m.p. 79°-81° C.

reactant | 2-Hydroxy-5-ethyl-4'-chlorobenzophenone | 0.019 mole, 5 g | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)CC | C15H13ClO2
reactant | NaOH | 0.187 mole, 7.5 g | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
solvent | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-Benzoyloxy-5-ethyl-4'-chlorobenzophenone | C(C1=CC=CC=C1)(=O)OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)CC | C22H17ClO3
